US07291752B2
tert-butyl 3-(2-naphthyl)-2-propenoate
To a suspension of tert-butyl triphenylphosphoranediylacetate (8.82 g, 23.4 mmol) in toluene (15 mL) was added a solution of 2-naphthaldehyde (2.82 g, 18.0 mmol) in toluene (15 mL). The mixture was stirred at room temperature for 18 hr and filtered. The filtrate was concentrated, subjected to silica gel column chromatography (ethyl acetate/hexane=1/30) and recrystallized (acetonitrile/water=1/2) to give the title compound as a colorless paste (4.1 g, yield 91%), melting point: 74-75° C.

reactant | tert-butyl triphenylphosphoranediylacetate | 23.4 mmol, 8.82 g | C1(=CC=CC=C1)P(=CC(=O)OC(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
reactant | 2-naphthaldehyde | 18.0 mmol, 2.82 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(2-naphthyl)-2-propenoate | yield 91% | C1=C(C=CC2=CC=CC=C12)C=CC(=O)OC(C)(C)C | C17H18O2
